US07642270B2
A. 3-(3,5-Dimethyl-piperazin-1-yl)-phenylamine
Using the procedure outlined in Example 37 (A), the title compound was prepared from 1-fluoro-3-nitrobenzene (1 g, 7 mmol) and 3,5-dimethyl-piperazine (1.14 g, 10 mmol). 1H NMR (400 MHz, CDCl3) δ (ppm): 7.00 (t, J=8.0 Hz, 1H), 6.33 (d, J=8.2 Hz, 1H), 6.21 (m, 1H), 6.15 (d, J=8.2 Hz, 1H), 3.60 (br, 2H), 3.45 (d, J=9.8 Hz, 2H), 2.98 (m, 1H), 2.22 (t, J=11.3 Hz, 2H), 1.10 (s, 3H), 1.08 (s, 3H).

reactant | 1-fluoro-3-nitrobenzene | 7 mmol, 1 g | FC1=CC(=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 3,5-dimethyl-piperazine | 10 mmol, 1.14 g | CC1CNCC(N1)C | C6H14N2
product | 3-(3,5-Dimethyl-piperazin-1-yl)-phenylamine | CC1CN(CC(N1)C)C=1C=C(C=CC1)N | C12H19N3
